US09388189B2
(S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (110 mg, 0.43 mmol) was treated with 4-chloro-5-iodopyrimidine (166 mg, 0.69 mmol), cesium fluoride (131 mg, 0.86 mmol) and N,N-diisopropylethylamine (377 μL, 2.16 mmol) according to Preparation 13. The residue was purified by reverse phase using SP1® Purification System to give 30 mg (13% yield) of the title compound as a solid. Purity 86%.

reactant | (S)-2-(1-Aminoethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.43 mmol, 110 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C14H14N4O
reactant | 4-chloro-5-iodopyrimidine | 0.69 mmol, 166 mg | ClC1=NC=NC=C1I | C4H2ClIN2
reactant | cesium fluoride | 0.86 mmol, 131 mg | [F-].[Cs+]
reactant | N,N-diisopropylethylamine | 2.16 mmol, 377 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | (S)-2-(1-((5-Iodopyrimidin-4-yl)amino)ethyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 30 mg, 13% yield | IC=1C(=NC=NC1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=CC=C2 | C18H15IN6O
